Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel better." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR including ___ note dated ___ and Dr. 
___ admission note dated ___. 
.
Briefly, this is an ___ year old single ___ woman, 
medical history significant for hyperthyroidism, childhood 
seizures, lung infection s/p resection,  unclear psychiatric 
history, with admission to ___ approximately
___ year ago, no prior suicide attempts, reported history of PNES 
vs. syncope, numerous presentations to ___ for 
anxiety and periods of head banging, who initially presented to 
___ via EMS after being found on the ground, crying. 
Psychiatry was initially consulted due to concerns of depression 
and suicidal ideation. 
. 
Upon initial interview, patient endorsed being "a little bit 
depressed" but could not cite why. She stated she had been 
feeling "sad and angry and I felt like I wanted to take my life 
away... sometimes I feel like killing myself for no reason... I 
go to the park because I feel so sad, angry and mad." Patient
reported history of depression since age ___ following the death 
of her grandfather; she denied prior suicide attempts. Reported 
having thoughts of letting a car hit her. Endorsed fluctuations 
in sleep and appetite, but denied AVH. Endorsed some paranoid 
ideation but patient could not elaborate. Stated, "sometimes I 
feel I don't' deserve to be here." 
.
Collateral obtained from ___, the patient's uncle revealed 
the patient "goes to the ___ all the time and says 
she wants to kill herself." He confirmed she has not made any 
attempts but she "has lots of depression and sometimes she 
doesn't accept it." He reported she will make statements such 
as, "I have a lot of depression... I'll jump." Reported she has 
not been attending school because "they treat he badly" and 
stated her work hours were recently cut at ___. Reported 
she was not sleeping well. Stated family has not been sleeping, 
about 2 hours per night, with poor appetite, had recently failed 
out of school, reported she was being bullied, and not taking 
her medical medications. Also stated her hair is falling out. On
morning of admission, patient reportedly thanked them "for 
taking care of me all these years... you're not going to see me 
again," she then grabbed 4 cans of something and left the house. 
Family has also noted changes in her memory, noted she has been 
intermittently suicidal and 6 months ago wrote a suicide note 
and threatened to jump out of a car. Also reported she wants to 
be
alone and is increasingly moody. 
.
ED Course: patient was in adequate behavioral control and did 
not require physical or chemical restraints. 
.
On my interview with Ms. ___, who was a limited historian, 
providing vague answers, she stated she is "okay now." Reported 
she is here because "I get sad... it just happens... maybe for 5 
minutes." Reported she usually spends her days going to the gym, 
going to work watching movies, lifting weights for hours at a 
time. Stated when she is "sad" it only lasts several minutes and 
could not identify any triggers to her sadness. Otherwise, 
stated, "I'm just happy." Did report there were some school 
stressors and stated she is not in high school for this reason. 
Could not describe what these stressors are. 
. 
Of note, patient reported "good" mood, stated she had been 
sleeping well, about 8 hours per night. Denied anhedonia, 
stating she enjoys the gym. Denied feelings of guilt or 
worthlessness, denied difficulty with energy, concentration. 
Denied suicidal ideation or thoughts of self harm. 
. 
On psychiatric review of systems, patient denied history of 
psychosis including auditory of visual hallucinations, ideas of 
reference, thought insertion or broadcasting. Denied history of 
mania including decreased need for sleep, increased energy, 
grandiosity, impulsivity. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: unclear, patient denies prior formal diagnoses 
- Hospitaliazations: patient denies, per BEST team, patient was
admitted to ___ approximately a year ago, saying she wanted to
die 
- Medication Trials: none 
- Psychiatrist: none
- Therapist: none 
- SA/SIB: none/none
.
Past medical history: Per OMR, patient 
- Hyperthyroidism 
- Vitamin D deficiency
- Psychogenic non epileptic seizures vs. childhood epilepsy 
- s/p partial lung removal 

 
Social History:
Personal and Social History: Patient reports she was born and 
raised in ___ and reports she is the youngest child with 
3 sisters and 1 brother. Stated she came to the ___ when she was 
age ___ with her mother, who stays at home. Reports her father 
recently came from ___ approximately 6 months ago. 
Unclear what he does for work. States childhood was "good," 
denies
history of physical or sexual abuse. Currently living in ___ 
with her father. States she was kept back at least one grade for 
unclear reasons. Was a senior at ___ but did 
not graduate; she is thinking of returning next year. Never 
married, no children. Denies history of legal issues or access 
to guns. Has been working at ___ for the past 5 months as 
a
___ and states she has a job at ___ but needs to 
provide a tox screen prior to starting a job. Family confirmed 
patient's mother had normal pregnancy
but when she was 3 days old she had a fever and appeared to 
suffer febrile seizures with last seizure at age ___. 
Reported lung infection s/p partial lung removal. Mother reports 
patient met developmental milestones on time including walking 
and talking. Came to the ___ in ___ repeated one grade due to
language barrier. Stated there has been some decline in the past 
year and that patient used to have straight A's and B's and 
started getting F's. 
. 
Substance use history: 
- Alcohol: denies
- Illicits: denies
- Tobacco: denies 

 
Family History:
- Diagnosis: none 
- Suicides: none 
- Addictions: none 

 
Physical Exam:
Discharge Exam:
VS: BP: 105/70  HR:90   temp:97.9  resp:16   O2 sat:99% RA
A/B: thin but well nourished, appears stated age, dressed 
casually with good hygiene and grooming, calm, cooperative with 
interviewer, good eye contact, no psychomotor agitation or 
retardation noted
S: normal rate, volume, prosody
M: "good"
A: euthymic, mood congruent, appropriate, full range
TC: denies SI/Hi, AVH 
TP: linear, goal and future oriented
C: awake, alert and oriented x3
I/J: improved/improved

 
Pertinent Results:
___ 07:15PM URINE  HOURS-RANDOM
___ 07:15PM URINE  UCG-NEGATIVE
___ 05:11PM   GLUCOSE-120* UREA N-14 CREAT-0.8 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-22 ANION GAP-19
___ 05:11PM   ALT(SGPT)-21 AST(SGOT)-23 ALK PHOS-80 TOT 
BILI-0.6
___ 05:11PM   CALCIUM-9.4 PHOSPHATE-3.7 MAGNESIUM-2.0
___ 05:11PM   TSH-0.51
___ 05:11PM   HCG-<5
___ 05:11PM   WBC-6.2 RBC-5.92* HGB-12.5 HCT-43.4 MCV-73* 
MCH-21.1* MCHC-28.8* RDW-18.6* RDWSD-46.0
___ 05:11PM   NEUTS-61.8 ___ MONOS-8.1 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-3.82 AbsLymp-1.81 AbsMono-0.50 
AbsEos-0.01* AbsBaso-0.02
___ 05:11PM   PLT SMR-NORMAL PLT COUNT-173
___ 09:50PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN->12 PH-8.5* 
LEUK-SM 
___ 09:50PM URINE  RBC-5* WBC-9* BACTERIA-NONE YEAST-NONE 
EPI-8
___ 09:50PM URINE  MUCOUS-OCC
___ 03:45PM URINE  HOURS-RANDOM
___ 03:45PM URINE  UCG-NEGATIVE
___ 03:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:45PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 03:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-LG
___ 03:45PM URINE  RBC-2 WBC-48* BACTERIA-FEW YEAST-NONE 
EPI-13 TRANS EPI-1
___ 03:45PM URINE  MUCOUS-RARE
___ 12:15PM   GLUCOSE-96 UREA N-14 CREAT-0.7 SODIUM-142 
POTASSIUM-3.2* CHLORIDE-103 TOTAL CO2-21* ANION GAP-21*
___ 12:15PM   estGFR-Using this
___ 12:15PM   CALCIUM-9.0 PHOSPHATE-3.0 MAGNESIUM-2.2
___ 12:15PM   TSH-0.59
___ 12:15PM   FREE T4-1.5
___ 12:15PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:15PM   WBC-7.5 RBC-5.25* HGB-11.0* HCT-38.1 MCV-73*# 
MCH-21.0*# MCHC-28.9*# RDW-17.5* RDWSD-45.1
___ 12:15PM   NEUTS-64.4 ___ MONOS-7.7 EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-4.83 AbsLymp-2.04 AbsMono-0.58 
AbsEos-0.00* AbsBaso-0.03
___ 12:15PM   PLT COUNT-193
___ 09:20PM URINE Color-Yellow Appear-Hazy Sp ___
___ 01:24PM URINE Color-Straw Appear-Clear Sp ___
___ 09:50PM URINE Color-Yellow Appear-Hazy Sp ___
___ 03:45PM URINE Color-Straw Appear-Hazy Sp ___
___ 09:20PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-7.0 Leuks-NEG
___ 01:24PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:20PM URINE RBC-2 WBC-3 Bacteri-NONE Yeast-RARE Epi-4 
TransE-<1
___ 09:50PM URINE RBC-5* WBC-9* Bacteri-NONE Yeast-NONE 
Epi-8
___ 03:45PM URINE RBC-2 WBC-48* Bacteri-FEW Yeast-NONE 
Epi-13 TransE-1
___ 09:20PM URINE Mucous-OCC
___ 09:20PM URINE
 
Brief Hospital Course:
This is an ___ year old single ___ woman,  medical 
history significant for hyperthyroidism, childhood  seizures, 
lung infection s/p resection, unclear psychiatric history, with 
admission to ___ approximately ___ year ago, no prior suicide 
attempts, reported history of PNES  vs. syncope, numerous 
presentations to ___ for  anxiety and periods 
of head banging, who initially presented to  ___ via EMS after 
being found on the ground, crying. 
.
Interview with patient limited, as she is a poor historian but 
review of OMR concerning for subacute decompensation over the 
past year with drop in grades, withdrawal from activities, 
concern for poor motivation,  with frequent mood swings, 
episodes of crying, hyperventilation, banging head, with 
intermittent suicidal ideation and brief periods of depression 
and suicidal ideation, poor po intake with significant weight 
loss. Mental status examination is notable for disheveled, 
somewhat withdrawn women with concrete thought process and 
concern for paucity of thought, difficulties with calculations. 
. 
Etiology of presentation at this time is unclear and 
differential is broad pending further collateral information and 
medical workup. Given her age and mental status examination, I 
am concerned for prodromal symptoms with underlying psychotic
disorder at this time with primarily negative symptoms. Given 
lack of developmental history, cannot rule out underlying 
developmental disorder/intellectual disability at this time 
although history from family and former good grades would point 
against this. Labs were noticeable for microcytosis without 
anemia, low B12, as well as significant glucosuria without 
hyperglycemia; in addition, there was also a questionable 
history of seizures with unclear workup at this time. Tox screen 
was negative at this time and patient denies substance use; 
making alcohol/drug use less
likely to be contributing. 
.
#. Legal/Safety: Patient admitted on a ___, upon 
admission, signed a CV, which was accepted. Patient maintained 
her safety throughout her admission on 15 minute checks with no 
unsafe behaviors. Of note, she did not require physical or 
chemical restraints. 
. 
#. Unspecified mood disorder: as noted above with significant 
concern for prodromal symptoms
- Patient was reluctant to attend groups, stating she would 
prefer to go home and follow up with outpatient treaters. The 
treatment team met with the patient's family, including her 
uncle and mother. They stated patient has history of mood swings 
and history of threatening suicide in the past but confirmed no 
prior history of suicide attempts. They felt safe having her 
return home on day of discharge with plan to follow up with 
outpatient referrals at ___. Of note, patient had 
difficulty discussing the reasoning behind her depression and 
suicidal ideation, only able to state that she currently feels 
"happy." 
- EEG was performed given history concerning for epilepsy, which 
did not show any focal abnormalities or epileptiform features. 
- Of note, given microcytosis despite low B12 and glucosuria, 
lead level was obtained and pending at time of discharge 
- Head CT was considered to rule out organic etiology but given 
lack of focal neurologic symptoms, deferred this test during 
this admission. 
- After discussion of the risks and benefits, we offered the 
patient risperidone 0.5 mg po qhs in addition to 0.5 mg po tid 
prn; she received a single dose prior to discharge, which she 
tolerated well with no complaints of side effects. 
- For periods of anxiety and insomnia, we also offered Ativan 
0.5 mg po q6 h prn but did not require doses
- Patient denied consistent alcohol use but was encouraged to 
abstain from alcohol and illicit drugs following discharge
- Of note, patient consistently denied suicidal ideation and 
thoughts of self harm throughout her admission, reporting her 
mood as "happy." 

#. Glucosuria: with unclear etiology 
- HbA1c= 5.1 and glucose was within normal limits, making 
hyperglycemia/diabetes unlikely. 
- ?secondary to thalassemia vs. heavy metal exposure (lead level 
pending) 
- Follow up with PCP for work up 

#. Microcytosis: without anemia 
- Discussed case with hematology, who had no urgent concerns and 
recommended follow up with outpatient PCP. 
- Lead level 

#. Low B12: as noted above
- Patient was placed on Cyanocobalmin; follow up with PCP as 
noted in discharge summary 

#. Hyperthyroidism: off methimazole
- TSH, T3, T4 unremarkable 
- Held methimazole at this time  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
daily Disp #*90 Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO QHS 
RX *risperidone [Risperdal] 0.5 mg 1 tablet(s) by mouth at 
bedtime Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with mixed reaction 

 
Discharge Condition:
VS: BP: 105/70  HR:90   temp:97.9  resp:16   O2 sat:99% RA
A/B: thin but well nourished, appears stated age, dressed 
casually with good hygiene and grooming, calm, cooperative with 
interviewer, good eye contact, no psychomotor agitation or 
retardation noted
S: normal rate, volume, prosody
M: 'good'
A: euthymic, mood congruent, appropriate, full range
TC: denies SI/Hi, AVH 
TP: linear, goal and future oriented
C: awake, alert and oriented x3
I/J: improved/improved

 
Discharge Instructions:
You were hospitalized at ___ due to concerns for worsening 
depression, suicidal ideation. While you were here we adjusted 
started Risperidone and your condition improved. You are now 
ready for discharge with continued outpatient treatment.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
 -Please continue all medications as directed.
 -Please do not misuse alcohol or drugs (whether prescription 
drugs or illegal drugs) as this can further worsen your medical 
and psychiatric illnesses.
 -Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
 -Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
- Patient is a non smoker, nicotine replacement was not 
indicated

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
 
Followup Instructions:
___